US08420655B2
To a suspension of 2-(5-bromo-1-tert-butyl-1H-benzimidazol-2-yl)-benzonitrile (765 mg, 2.16 mmol) in EtOH (15 mL) is added hydroxylamine 50% aqueous solution (2.85 mL, 43.19 mmol) at room temperature. The solution is heated to 80° C. for 2 hours. The reaction mixture is cooled to room temperature and the ethanol removed in vacuo. Water (30 mL) is added to the reaction mixture and the resultant precipitate is filtered and washed with 10% EtOAc/heptane (10 mL) to afford 2-(5-bromo-1-tert-butyl-1H-benzimidazol-2-yl)-N-hydroxy-benzamidine (716 mg, 81%).

reactant | 2-(5-bromo-1-tert-butyl-1H-benzimidazol-2-yl)-benzonitrile | 2.16 mmol, 765 mg | BrC1=CC2=C(N(C(=N2)C2=C(C#N)C=CC=C2)C(C)(C)C)C=C1 | C18H16BrN3
reactant | hydroxylamine | NO | H3NO
solvent | EtOH | 15 mL | CCO | C2H6O
product | 2-(5-bromo-1-tert-butyl-1H-benzimidazol-2-yl)-N-hydroxy-benzamidine | 716 mg, 81% | BrC1=CC2=C(N(C(=N2)C2=C(C(=N)NO)C=CC=C2)C(C)(C)C)C=C1 | C18H19BrN4O
